US04567172
11β-Hydroxy-21-isobutyryloxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione
In 2 ml of methylene chloride was dissolved 223 mg of 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 32. To this solution were added 404 mg of triethylamine and 253 mg of isobutyric anhydride, and the mixture was stirred for 5 hours at room temperature. The reaction mixture was then treated in the same manner as described in Example 7 whereby 168 mg (yield: 65.1%) of the title compound was obtained as colorless needle crystals.

reactant | 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 223 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H34O7
reactant | triethylamine | 404 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyric anhydride | 253 mg | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 11β-Hydroxy-21-isobutyryloxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 168 mg, yield: 65.1% | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(C(C)C)=O)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C29H40O8
